### PR TITLE
[Merged by Bors] - feat: don't re-elaborate terms in set

### PR DESCRIPTION
**Pull request by alexjbest**
Fix the set tactic to not time out when dealing with slow to elaborate terms and many local hypotheses.

The root cause of this is that the `rewrite [blah] at *` tactic causes blah to be elaborated again and again for each local hypothesis, this is possibly a core issue that should be fixed separately, but in `set` we have the elaborated term already so we can just use it.

We also add some functionality to simply test / demonstrate failures when elaboration takes too long, namely `sleepAtLeastHeartbeats` and a `sleep_heartbeats` tactic.

@urkud was facing some slow running set's in https://github.com/leanprover-community/mathlib4/pull/4912, see https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Timeout.20in.20.60set.20.2E.2E.20with.60/near/367958828 that this issue was minimized from and should fix.

Some other linter failures show up due to changes to the set internals so fix these too.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/Set.lean [hunk 1]
```diff
@@ -53,11 +53,10 @@ elab_rules : tactic
       pure (fvar, [goal])
     Term.addTermInfo' (isBinder := true) a (mkFVar fvar)
     if rw.isNone then
-      evalTactic (← `(tactic| try rewrite [(id rfl : $val = $a)] at *))
-    let tt ← Term.exprToSyntax ty
+      evalTactic (← `(tactic| try rewrite [show $(← Term.exprToSyntax vale) = $a from rfl] at *))
     match h, rev with
     | some h, some none =>
-      evalTactic (← `(tactic| have%$tk $h : $a = ($val : $tt) := rfl))
+      evalTactic (← `(tactic| have%$tk $h : $a = ($val : $(← Term.exprToSyntax ty)) := rfl))
```
Comment (kmill) [inline Mathlib/Tactic/Set.lean:59]: Here and two lines later, should we do this?
```suggestion
      evalTactic (← `(tactic| have%$tk $h : $a = ($(← Term.exprToSyntax vale) : $(← Term.exprToSyntax ty)) := rfl))
```
Another option is that right after line 54 you do
```lean
let val ← Term.exprToSyntax vale
let ty ← Term.exprToSyntax ty
```
so that you can use `$val` and `$ty` in these quotations.

Comment (alexjbest) [reply Mathlib/Tactic/Set.lean:59]: Oh yes that's probably better thanks

File: Mathlib/Util/SleepHeartbeats.lean [hunk 2]
```diff
@@ -0,0 +1,33 @@
...
+manner.
+-/
+open Lean Elab
+
+/-- A low level command to sleep for at least a given number of heartbeats by running in a loop
+  until the desired number of heartbeats is hit. -/
+def sleepAtLeastHeartbeats (n : Nat) : IO Unit := do
+  let i ← IO.getNumHeartbeats
+  while (← IO.getNumHeartbeats) < i + n do
+    continue
```
[the remark this answers is not in the document]
Comment (alexjbest) [reply Mathlib/Util/SleepHeartbeats.lean:21]: Yes I agree. I was a bit worried this function would be sufficiently inlined that it wouldn't eat heartbeats at all, but it fortunately does. I'll add a docstring note to avoid using it for anything other than testing/demoing lean meta stuff.

File: Mathlib/Util/SleepHeartbeats.lean [hunk 3]
```diff
@@ -0,0 +1,33 @@
...
+/-!
+# Defines `sleep_heartbeats` tactic.
+
+This is useful for testing / debugging long running commands or elaboration in a somewhat precise
+manner.
+-/
+open Lean Elab
+
+/-- A low level command to sleep for at least a given number of heartbeats by running in a loop
+  until the desired number of heartbeats is hit. -/
```
Comment (alexjbest) [inline Mathlib/Util/SleepHeartbeats.lean:17]:
```suggestion
until the desired number of heartbeats is hit.
Warning: this function relies on interpreter / compiler
behaviour that is not guaranteed to function in the way that is relied upon here.
As such this function is not to be considered reliable, especially after future updates to Lean.
This should be used with caution and basically only for demo / testing purposes and not in compiled code without further testing. -/
```

File: Mathlib/MeasureTheory/Covering/Vitali.lean [hunk 4]
```diff
@@ -332,7 +332,7 @@ theorem exists_disjoint_covering_ae [MetricSpace α] [MeasurableSpace α] [Opens
   have M : (s \ ⋃ a ∈ u, B a) ∩
       ball x (R x) ⊆ ⋃ a : { a // a ∉ w }, closedBall (c a) (3 * r a) := by
     intro z hz
-    set k := ⋃ (a : v) (ha : a ∈ w), B a
+    set k := ⋃ (a : v) (_ha : a ∈ w), B a
```
Comment (semorrison) [inline Mathlib/MeasureTheory/Covering/Vitali.lean:335]: I think it's better with all of these to just use `_`.

Whenever I see a `_h` I inevitably start thinking "huh, I wonder why the unused argument linter made a mistake there, and the human needed to override it"...

**Comment by semorrison** [comment]
Otherwise, looks great.

bors d+

File: Mathlib/MeasureTheory/Decomposition/Lebesgue.lean [hunk 5]
```diff
@@ -561,7 +561,7 @@ theorem haveLebesgueDecomposition_of_finiteMeasure [IsFiniteMeasure μ] [IsFinit
         ⟨0, 0, zero_mem_measurableLE, by simp⟩ (OrderTop.bddAbove _)
     choose g _ hg₂ f hf₁ hf₂ using h
     -- we set `ξ` to be the supremum of an increasing sequence of functions obtained from above
-    set ξ := ⨆ (n) (k) (hk : k ≤ n), f k with hξ
+    set ξ := ⨆ (n) (k) (_hk : k ≤ n), f k with hξ
```
Comment (alexjbest) [inline Mathlib/MeasureTheory/Decomposition/Lebesgue.lean:564]:
```suggestion
    set ξ := ⨆ (n) (k) (_ : k ≤ n), f k with hξ
```
